US07875715B2
Intermediate 219: Ethyl 4-(benzylamino)-2-methylpiperidine-1-carboxylate
A solution of ethyl 2-methyl-4-oxopiperidine-1-carboxylate (2.20 grams, 11.9 mmol) and benzyl benzylamine in dichloroethane/methanol (4:1, 50 mL) was heated over 3 Å molecular sieves at 90° C. for 16 hours. The reaction mixture was cooled to 0° C., and sodium triacetoxy borohydride (5.03 g, 23.8 mmol) was added. The resulting reaction mixture was stirred at room temperature for 30 minutes and then was filtered through a 0.45 μm membrane and concentrated to dryness under reduced pressure. The residue was taken up in aqueous 1N HCl solution and washed with ether (2×50 mL). The pH of the aqueous phase was adjusted to a pH of approximately 7 with 1M aqueous sodium bicarbonate solution. The aqueous phase was back extracted twice with ether (4×50 mL) and the combined organic phases were dried over sodium sulfate and concentrated under reduced pressure. Chromatography on silica gel with dichloromethane/methanol (94:6) gave 1.57 g (47% yield) of a yellow oil.

reactant | ethyl 2-methyl-4-oxopiperidine-1-carboxylate | 11.9 mmol, 2.20 grams | CC1N(CCC(C1)=O)C(=O)OCC | C9H15NO3
reactant | benzyl benzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | sodium triacetoxy borohydride | 23.8 mmol, 5.03 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane methanol | ClCCl.CO
solvent | dichloroethane methanol | 50 mL | ClC(C)Cl.CO
product | Ethyl 4-(benzylamino)-2-methylpiperidine-1-carboxylate | 1.57 g, 47% yield | C(C1=CC=CC=C1)NC1CC(N(CC1)C(=O)OCC)C | C16H24N2O2
